US08293869B2
A. 9-Hydroxymethyl-2,7-di(4-carboxybutyrylamino)fluorene
9-Hydroxymethyl-2,7-diaminofluorene (0.38 g, 1.7 mmol) was dissolved in anhydrous tetrahydrofuran (THF) (10 mL) and glutaric anhydride (97%, 2.2 eq, 3.7 mmol, 0.435 g) was added. The reaction was stirred for 4.5 hours and absence of amine was confirmed by TLC (ninhydrin stain, 90:10:3 ethyl acetate/methanol/acetic acid). The reaction mixture was diluted with hexanes (10 mL), filtered and washed with 1:1 THF/hexanes then hexanes. The crude product was dissolved in a minimal amount of methanol (1 mL) and THF (10 mL) and precipitated with addition of hexanes (10 mL). The mixture was cooled (4° C.), filtered and washed with 1:1 THF/Hexanes then hexanes. Yield was 0.59 g (77%) of yellow-orange powder. 1H-NMR (CD3OD): δ (ppm) 7.9 (s, 2H, Ar); 7.7 (d, 2H, Ar); 7.5 (dd, 2H, Ar); 4.0 (t, 1H, CH); 3.9 (d, 2H, CH2); 2.5 (t, 4H, CH2); 2.4 (t, 4H, CH2); 2.0 (m, 4H, CH2).

reactant | 9-Hydroxymethyl-2,7-diaminofluorene | 1.7 mmol, 0.38 g | OCC1C2=CC(=CC=C2C=2C=CC(=CC12)N)N | C14H14N2O
reactant | glutaric anhydride | 3.7 mmol, 0.435 g, 2.2 eq | C1(CCCC(=O)O1)=O | C5H6O3
reactant | ninhydrin | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
reactant | ethyl acetate methanol acetic acid | C(C)(=O)OCC.CO.C(C)(=O)O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 9-Hydroxymethyl-2,7-di(4-carboxybutyrylamino)fluorene | OCC1C2=CC(=CC=C2C=2C=CC(=CC12)NC(CCCC(=O)O)=O)NC(CCCC(=O)O)=O | C24H26N2O7
